US06291482B1
(4) Synthesis of N-hydroxy-N-[6-(3-pyridylmethyl)-2H-1-benzopyran-3-ylmethyl]urea (i.e., compound (I))
1.84 ml of trimethylsilyl isocyanate was added dropwise to a solution of 3.03 g (11.3 mmol) of N-[6-(3-pyridylmethyl)-2H-1-benzopyran-3-ylmethyl]hydroxylamine in tetrahydrofuran (30 ml) at 0° C. over 5 minutes, followed by stirring overnight at room temperature. Then, the solvent was evaporated in vacuo, the residue was purified by silica gel chromatography (chloroform:methanol:concentrated ammonia water=300:9:1−100:9:1), followed by recrystallization in a mixed solvent of chloroform-methanol-ethyl acetate to obtain 2.41 g (yield=68.5%) of the desired compound as white columnar crystal.

reactant | trimethylsilyl isocyanate | 1.84 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | N-[6-(3-pyridylmethyl)-2H-1-benzopyran-3-ylmethyl]hydroxylamine | 11.3 mmol, 3.03 g | N1=CC(=CC=C1)CC=1C=CC2=C(C=C(CO2)CNO)C1 | C16H16N2O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-hydroxy-N-[6-(3-pyridylmethyl)-2H-1-benzopyran-3-ylmethyl]urea | 2.41 g, yield=68.5% | ON(C(=O)N)CC=1COC2=C(C1)C=C(C=C2)CC=2C=NC=CC2 | C17H17N3O3
